US05424444
6b. 3-Methyl-5-(1-methyl-2(S)-pyrrolidinyl)isoxazole
THF (36.4 L) was stirred under nitrogen, and acetone oxime (3.034 kg, 41.5 mol) was added. The solution was cooled to -40° C., and n-butyllithium (10M in hexane, 8.3 L, 83 mol) was added at a rate such that the internal temperature did not rise above 5° C. (very exothermic reaction). Stirring was continued for an additional 2 hr, with the temperature maintained between 0° and 5° C. Under nitrogen THF (16.6 L) was added and the mixture was cooled to -10° C. The solution of N-methyl proline methyl ester, from step 6a above, was diluted with 3.3 L of THF (to a total of 23.5 L) and cooled to 0° C. Into a third reactor containing a small amount to THF, the solutions of the acetone oxime dianion and the ester were simultaneously added dropwise at the ratio of dianion to ester of 2:1. The internal temperature of the reaction vessel was maintained between -12° and -6° C., and the temperatures of the added solutions were 5° C. After addition was complete, the reaction mixture was stirred for 1 hr at -10° C. To the reaction was added a mixture of 97% sulfuric acid (10.99 kg, 108.7 mol) in ice water (6.177 kg) in portions such that the temperature did not rise above 10° C. The solution was heated at reflux for 3 hr with vigorous stirring, and 25 L of THF was distilled off. The mixture was cooled to 25° C., and solid Na2CO3 (7.687 kg, 72.5 mol) was added in portions, with vigorous stirring. The yellow precipitate was filtered and washed with 2×12.5 L portions of THF. The filtrate was evaporated in a rotary evaporator and azeotroped with 3×3 L of toluene. The residue was filtered through a column of silica gel, and the product was eluted with 41.5 L of 3% methanol in ethyl acetate. The eluate was evaporated to dryness, and the product was vacuum distilled (0.1 mbar, 70° C., e.e.=99.5%).

reactant | acetone oxime | 41.5 mol, 3.034 kg | CC(C)=NO | C3H7NO
reactant | n-butyllithium | 83 mol, 10M, 8.3 L | C(CCC)[Li]
reactant | N-methyl proline methyl ester | COC([C@H]1N(CCC1)C)=O | C7H13NO2
reactant | sulfuric acid | 108.7 mol, 10.99 kg | S(O)(O)(=O)=O | H2O4S
reactant | Na2CO3 | 72.5 mol, 7.687 kg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 3.3 L | C1CCOC1 | C4H8O
solvent | THF | 25 L | C1CCOC1 | C4H8O
solvent | THF | 36.4 L | C1CCOC1 | C4H8O
product | 3-Methyl-5-(1-methyl-2(S)-pyrrolidinyl)isoxazole | CC1=NOC(=C1)[C@H]1N(CCC1)C | C9H14N2O
